US04666935
16.7 g (0.1 mol) of dichloromaleic anhydride and 14.0 g (0.1 mol) of 2-(4-fluorophenyl)-ethylamine are stirred in 100 ml of glacial acetic acid at 120° C. for 4 hours. The mixture is cooled to 20° C. and 10 ml of water are added. A colorless precipitate separates out, and is filtered off with suction and dried. 16 g of dichloromaleic acid N-[2-(4-fluorophenyl)-ethyl]-imide of melting point 137°-138° C. are obtained. A further 5.1 g of imide can be isolated by stirring the mother liquor with water. The total yield is 73% of theory.

reactant | dichloromaleic anhydride | 0.1 mol, 16.7 g | Cl/C/1=C(/C(=O)OC1=O)\Cl | C4Cl2O3
reactant | 2-(4-fluorophenyl)-ethylamine | 0.1 mol, 14.0 g | FC1=CC=C(C=C1)CCN | C8H10FN
reactant | water | 10 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | dichloromaleic acid N-[2-(4-fluorophenyl)-ethyl]-imide | 16 g | FC1=CC=C(C=C1)CCN=C(\C(=C(/C(=O)O)\Cl)\Cl)O | C12H10Cl2FNO3
